US06107301
1-(2-Bromo-4-isopropylphenyl)-6-chloro-4-methyl-7-azaindole
A mixture of 52 mg of 1-(2-bromo-4-isopropylphenyl)-6-chloro-3-cyano-4-methyl-7-azaindole and 10 mL of 65% sulfuric acid was refluxed for one hour. The cooled solution was poured onto ice, and 17 mL of conc. ammonium hydroxide was added. The alkaline mixture was extracted with ethyl acetate. The extract was washed (brine), dried (Na2SO4), and evaporated. TLC of the residue on silica gel with 70:30 hexane-ethyl acetate showed a major new spot, Rf =0.58, with a trace of unchanged starting material (Rf 0.52). The crude product was purified by preparative TLC to give 39 mg of non-crystalline product, which slowly crystallized on standing. Mass spec. (m+H)+ =363.0247; calcd., 363.0264 (79Br, 35Cl).

reactant | 1-(2-bromo-4-isopropylphenyl)-6-chloro-3-cyano-4-methyl-7-azaindole | 52 mg | BrC1=C(C=CC(=C1)C(C)C)N1C=C(C2=C(C=C(N=C12)Cl)C)C#N | C18H15BrClN3
reactant | ammonium hydroxide | 17 mL | [OH-].[NH4+]
solvent | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
product | 1-(2-Bromo-4-isopropylphenyl)-6-chloro-4-methyl-7-azaindole | 39 mg | BrC1=C(C=CC(=C1)C(C)C)N1C=CC2=C(C=C(N=C12)Cl)C | C17H16BrClN2
